US07691882B2
To a mixture of 1-bromo-3-methoxymethoxymethyl-benzene (3.0 g, 13 mmol) described in Manufacturing Example 214-1-1, trimethylsilylacetylene (2.6 g, 26 mmol), N,N-diisopropylethylamine (3.4 g, 26 mmol), copper (I) iodide (500 mg, 2.6 mmol), and 1-methyl-2-pyrrolidone (30 mL) was added tetrakis(triphenylphosphine)palladium (0) (1.5 g, 1.3 mmol), which was stirred for 15 minutes at 60° C. This mixture was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=8:1) to obtain a mixture of (3-methoxymethoxymethyl-phenylethynyl)-trimethyl-silane and 1-bromo-3-methoxymethoxymethyl-benzene (3.0 g of mixture, including approximately 30% (3-methoxymethoxymethyl-phenylethynyl)-trimethyl-silane). Tetrabutylammonium fluoride (2 mL, 1 M tetrahydrofuran solution) was added to a tetrahydrofuran (20 mL) solution of this mixture, which was stirred for 15 minutes at room temperature. The reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1) to obtain 1-ethynyl-3-methoxymethoxymethyl-benzene (470 mg). To a methanol (10 mL) solution of this 1-ethynyl-3-methoxymethoxymethyl-benzene (470 mg, 2.6 mmol) was added 5 N hydrochloric acid, which was stirred for 25 minutes at 70° C. The reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure to obtain the title compound (350 mg, 20%).

reactant | 1-bromo-3-methoxymethoxymethyl-benzene | 13 mmol, 3.0 g | BrC1=CC(=CC=C1)COCOC | C9H11BrO2
reactant | trimethylsilylacetylene | 26 mmol, 2.6 g | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 26 mmol, 3.4 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3-methoxymethoxymethyl-phenylethynyl)-trimethyl-silane | COCOCC=1C=C(C=CC1)C#C[Si](C)(C)C | C14H20O2Si
reactant | 1-bromo-3-methoxymethoxymethyl-benzene | 3.0 g | BrC1=CC(=CC=C1)COCOC | C9H11BrO2
reactant | Tetrabutylammonium fluoride | 1 M, 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | copper (I) iodide | 2.6 mmol, 500 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 1.3 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | 1-methyl-2-pyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | 1-ethynyl-3-methoxymethoxymethyl-benzene | 470 mg | C(#C)C1=CC(=CC=C1)COCOC | C11H12O2
